* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\CircuitoPrueba2.asc
R1 V1 N003 10k
R2 N001 V1 10k
R4 0 V1 10k
R5 0 N001 20k
R6 N002 V2 R
R7 V2 N005 R
R8 N002 0 R
R9 V2 0 R
R10 N005 0 R
R11 N003 0 R
R3 N004 N001 5k
R12 N002 N004 R
R13 N002 N001 R
.backanno
.end
