* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\CircuitoComplejoStubs.asc
C2 N003 N001 12p
C3 N004 N003 12p
C4 N005 N004 12p
C5 N007 N006 12p
R1 N003 0 75
R2 N005 0 75
R3 N007 0 75
L1 N006 0 10n
SSC1 N004 0 62.83 45 1E9
SOC1 N005 N006 13.26 45 1E9
SOC2 N007 N002 13.26 45 1E9
.backanno
.end
