* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\ElementosSerie.asc
SSC1 N001 N003 45 45 1E9
L1 N003 N004 10n
R1 N004 N002 75
.backanno
.end
