* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\FiltroPasaAltasConcentrados.asc
C1 N003 0 1.3n
C2 N002 0 4.7E-10
R1 N001 N003 14
R2 N003 N002 25
.backanno
.end
