* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\LineaTransmision2.asc
TL1 N003 N005 45 45 1E9
L1 N001 N003 10n
L2 N005 N002 10n
TL2 N004 N002 60 45 1E9
R1 N003 N004 75
TL3 N005 0 45 45 1E9
.backanno
.end
