* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\PasaAltasStubCapacitor.asc
SOC1 N001 N002 13.2629 45 1E9
L1 N002 0 10n
.backanno
.end
