* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\PasaAltasStubInductor.asc
C1 N001 N002 12p
S2 N002 0 62.83 45 1E9
.backanno
.end
