* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\Proyecto\NetlistSpice\PasaBajasConcentrados.asc
C1 N002 0 17p
L1 N001 N002 10n
.backanno
.end
