* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\CircuitoT.asc
V1 N003 N005 10
R1 N004 N003 1k
R2 N001 N004 2k
R3 N005 N004 3k
C1 N001 N005 2pF
C2 N002 N005 4pF
L1 N002 N001 2mH
.backanno
.end
