* C:\Users\monts\OneDrive\Documentos\Escuela\Cinvestav\Primer Cuatrimestre\RFI\CircuitoT.asc
V1 N002 N001 32
V2 N003 0 20
R1 N003 N002 4k
R2 0 N002 8k
R3 0 N001 2k
.backanno
.end
