* C:\Users\adare\OneDrive\Documentos\Maestria Cinvestav\Microondas\proyecto\Test R network\Rnetwork_portNamed.asc
R1 A1 0 10
R2 N001 A1 5
R3 N001 0 10
R4 N002 N001 5
R5 N002 0 10
R6 A2 N002 5
R7 A2 0 10
.backanno
.end
