* C:\Users\adare\OneDrive\Documentos\Maestria Cinvestav\Microondas\proyecto\Circuitos de prueba\Pasa altas\pasa_altas.asc
C1 N003 N001 130p
C2 N002 N003 47p
R1 N003 0 53
R2 N002 0 95
.backanno
.end
