* C:\Users\adare\OneDrive\Documentos\Maestria Cinvestav\Microondas\proyecto\Circuitos de prueba\Pasa bajas\Pasa bajas network\pasa_bajas_network.asc
R1 N003 N001 14
R2 N002 N003 25
C1 N003 0 1300p
C2 N002 0 470p
.backanno
.end
