* C:\Users\adare\OneDrive\Documentos\Maestria Cinvestav\Microondas\proyecto\Circuitos de prueba\Pasa banda\Pasa_bandas.asc
R1 N002 N001 10
C1 N002 0 159p
L1 N002 0 100n
.backanno
.end